US06103708
4-[4-(2-Benzyl-4,5-dimethyl-furan-3-carbonyl)-2-cyclopentyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-hydroxy-phenyl)-methanone (0.509 g, 1.36 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.645 g, 2.72 mmol). Purification on 2% H3PO4 /MeOH treated silica gel, eluting with 20% EtOAc/hexane gave 0.430 g (55%) of the title compound a pale yellow solid, mp 80-85° C. 1H NMR (DMSO-d6) δ 1.23-1.34 (m, 2 H), 1.45-1.59 (m, 2 H), 1.61-1.74 (m, 4 H), 1.76 (s, 3 H), 2.16 (s, 3 H), 2.95 (quintet, 1 H), 3.78 (s, 2 H), 6.98 (d, 2 H), 7.13-7.25 (m, 4 H), 7.36-7.38 (m, 2 H), 7.44-7.57 (m, 2 H), 7.97 (d, 1 H). IR (KBr) 3400, 2950, 1690, 1580, 1480 and 1190 cm-1. mass spectrum (-ESI) m/z 573 (M-H). Anal. Calcd. for C32H30O8S.0.2H2O: C, 66.88; H, 5.26; N, 0.00. Found: C, 66.53; H, 5.40; N, 0.07.

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 1.36 mmol, 0.509 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C=C1)O)C1CCCC1)C)C | C25H26O3
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 2.72 mmol, 0.645 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(2-Benzyl-4,5-dimethyl-furan-3-carbonyl)-2-cyclopentyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.430 g, 55% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C=C1)C1CCCC1)C)C | C32H30O8S
